US06573293B2
3-(2-Oxo-6-pyridin-3-yl-1,2-dihydroindol-3-ylidenemethyl)-4,5,6,7-tetrahydro-2H-isoindole-1-carboxylic Acid (2-diethylaminoethyl)amide
6-Pyridin-3-yl-1,3-dihydroindol-2-one (60 mg, 0.4 mmol) was condensed with 3-formyl-4,5,6,7-tetrahydro-2H-isoindole-1-carboxylic acid (2-diethylaminoethyl)amide (80 mg) to give 50 mg (38%) of the title compound as a reddish solid.

reactant | 6-Pyridin-3-yl-1,3-dihydroindol-2-one | 0.4 mmol, 60 mg | N1=CC(=CC=C1)C1=CC=C2CC(NC2=C1)=O | C13H10N2O
reactant | 3-formyl-4,5,6,7-tetrahydro-2H-isoindole-1-carboxylic acid (2-diethylaminoethyl)amide | 80 mg | C(C)N(CCNC(=O)C=1NC(=C2CCCCC12)C=O)CC | C16H25N3O2
product | 3-(2-Oxo-6-pyridin-3-yl-1,2-dihydroindol-3-ylidenemethyl)-4,5,6,7-tetrahydro-2H-isoindole-1-carboxylic Acid (2-diethylaminoethyl)amide | 50 mg, 38% | C(C)N(CCNC(=O)C=1NC(=C2CCCCC12)C=C1C(NC2=CC(=CC=C12)C=1C=NC=CC1)=O)CC | C29H33N5O2
